US08541575B2
3-(1-Phenyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenylamine (as regioisomeric mixture) was dissolved in dry dichloromethane (1 mL) under nitrogen atmosphere, 4-chloro-3-trifluoromethylphenylisocyanate (61 mg, 0.275 mmol, 1.4 eq) was added and the reaction mixture was stirred at room temperature for 3 hours. The solution was concentrated to dryness and purified by chromatography on silica gel (SP1, gradient n-hexane/ethyl acetate 1:1 to pure ethyl acetate). Two pools of fractions containing the two separated regioisomers were obtained, together with some mixed fractions (total yield 78%). 55 mg of 1-(4-Chloro-3-trifluoromethyl-phenyl)-3-[3-(2-phenyl-4-pyridin-4-yl-2H-pyrazol-3-yl)-phenyl]-urea were obtained as colourless oil.

reactant | 3-(1-Phenyl-4-pyridin-4-yl-1H-pyrazol-3-yl)-phenylamine | C1(=CC=CC=C1)N1N=C(C(=C1)C1=CC=NC=C1)C=1C=C(C=CC1)N | C20H16N4
reactant | 4-chloro-3-trifluoromethylphenylisocyanate | 0.275 mmol, 61 mg, 1.4 eq | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 1-(4-Chloro-3-trifluoromethyl-phenyl)-3-[3-(2-phenyl-4-pyridin-4-yl-2H-pyrazol-3-yl)-phenyl]-urea | 55 mg, yield 78% | ClC1=C(C=C(C=C1)NC(=O)NC1=CC(=CC=C1)C=1N(N=CC1C1=CC=NC=C1)C1=CC=CC=C1)C(F)(F)F | C28H19ClF3N5O
